US09388189B2
(S)-3-(Methylsulfonamido)-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (170 mg, 0.29 mmol) was treated with 3-(methylsulfonamido)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl methanesulfonate (230 mg, 0.73 mmol, prepared from the title compound of Preparation 105 and methanesulfonyl chloride according to Preparation 37), sodium carbonate (95 mg, 3.06 mmols) and bis(triphenylphosphine)palladium(II) dichloride (70 mg, 0.09 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 80%, hexane-ethyl acetate) to give 82 mg (37% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.29 mmol, 170 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C | C26H30BrN7O2Si
reactant | 3-(methylsulfonamido)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl methanesulfonate | CS(=O)(=O)OC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C | C14H22BNO7S2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | 3.06 mmols, 95 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.09 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-3-(Methylsulfonamido)-5-(4-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl methanesulfonate | CS(=O)(=O)OC1=CC(=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=CC=C1)COCC[Si](C)(C)C)NS(=O)(=O)C | C34H40N8O7S2Si
